US08071586B2
D) (R)-4-((S)-3-Hydroxy-1-methoxymethyl-propyl)-2-methyl-[1,4]diazepan-5-one hydrochloride
In analogy to the procedure described in intermediate SE, (R)-4-((S)-3-benzyloxy-1-methoxymethyl-propyl)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester and 0.95 eq. of 1 M aq. hydrochloric acid solution was hydrogenated for 6 h to give the title compound in 98% yield as white foam. MS: 231.1 (MH+).

reactant | (R)-4-((S)-3-benzyloxy-1-methoxymethyl-propyl)-2-methyl-5-oxo-[1,4]diazepane-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CN(C(CC1)=O)[C@@H](CCOCC1=CC=CC=C1)COC)C | C26H34N2O5
reactant | hydrochloric acid | 1 M, 0.95 eq. | Cl | ClH
product | (R)-4-((S)-3-Hydroxy-1-methoxymethyl-propyl)-2-methyl-[1,4]diazepan-5-one hydrochloride | 98% yield | Cl.OCC[C@@H](COC)N1C[C@H](NCCC1=O)C | InChI=1S/C11H22N2O3.ClH/c1-9-7-13(11(15)3-5-12-9)10(4-6-14)8-16-2;/h9-10,12,14H,3-8H2,1-2H3;1H/t9-,10+;/m1./s1
